US07888376B2
To a flask charged with (S)-3,3,3-trifluoro-2-hydroxypropanoyl cyanide (139 mg, 1 mmol) was added 3 N NaOH (6 mL) and 30% H2O2 (2.25 mL). The reaction mixture was heated at 65° C. for 1 h, then at 100° C. for a further 1 h. The reaction mixture was allowed to cooled to room temperature over 1 hr, then cool to 0° C. and the solution acidified with 6 N HCl (3 mL). The aqueous portion was extracted with ether (4×10 mL). The combined organic portions were dried over MgSO4, filtered and concentrated to give (S)-3,3,3-trifluoro-2-hydroxypropanoic acid as a clear oil (129 mg, 90% yield). NMR: 400 MHz 1H (CDCl3) 4.45 ppm, 1 H, m; 2.77 ppm, 2 H, m.

reactant | (S)-3,3,3-trifluoro-2-hydroxypropanoyl cyanide | 1 mmol, 139 mg | FC([C@H](C(=O)C#N)O)(F)F | C4H2F3NO2
reactant | NaOH | 3 N, 6 mL | [OH-].[Na+]
reactant | H2O2 | 2.25 mL | OO | H2O2
reactant | HCl | 6 N, 3 mL | Cl | ClH
product | (S)-3,3,3-trifluoro-2-hydroxypropanoic acid | 129 mg, 90% yield | FC([C@H](C(=O)O)O)(F)F | C3H3F3O3
